US06627764B1
Preparation of 1-(2-carboxyethyl)-2-chlorobenzene
A solution of 171.0 g (2.51 mol) of sodium ethoxide in ethanol is admixed with 149.2 g (932 mmol) of diethyl malonate. 50.0 g (311 mmol) of 2-chlorobenzyl chloride are added to this reaction mixture, and after the addition is complete the reaction mixture is refluxed for three hours. After cooling to room temperature, 480 g (1.71 mol) of a KOH solution are added and the mixture is subsequently refluxed for another hour. The ethanol is then distilled off and the residue is subjected to an aqueous work-up and extracted three times with 100 ml each time of diethyl ether. The organic phase is discarded and the aqueous phase is brought to a pH of 1 using concentrated HCl. The mixture is subsequently extracted three times with 100 ml each time of diethyl ether. The combined organic phases are washed with 100 ml of water and then with 100 ml of a saturated NaCl solution.

reactant | sodium ethoxide | 2.51 mol, 171.0 g | [O-]CC.[Na+]
reactant | diethyl malonate | 932 mmol, 149.2 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2-chlorobenzyl chloride | 311 mmol, 50.0 g | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
reactant | KOH | 1.71 mol, 480 g | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-carboxyethyl)-2-chlorobenzene | C(=O)(O)CCC1=C(C=CC=C1)Cl | C9H9ClO2
